US08809336B2
A mixture of methylamine in ethanol (18 ml, 33% in ethanol) and 4-(4-chlorophenyl)-4-formyl-piperidine-1-carboxylic acid tert-butyl ester (206 mg, 0.62 mmol) was stirred at room temperature overnight. The solvents were concentrated. The crude material was redissolved in methanol (18 ml) followed by addition of sodium borohydride (49 mg, 1.29 mmol). After stirring for 40 minutes at room temperature, the mixture was partitioned between ethyl acetate (100 ml) and a saturated aqueous solution of sodium hydrogen carbonate (100 ml). After separation of the two phases the aqueous phase was re-extracted with ethyl acetate (100 ml). The combined organic layers were dried (Na2SO4), filtered and concentrated. Flash column chromatography on silica, eluting with 10% methanol in dichloromethane gave 4-(4-chloro-phenyl)-4-methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester (142 mg, 0.42 mmol, 68%). GC-MS m/z 239 [(M-Boc)+], Rt 5.18 min. 1H NMR (250 MHz, CDCl3): 1.43 (9H, s), 1.80-1.88 (2, m), 2.15-2.24 (2, m), 2.31 (3H, s), 2.81 (2H, s), 2.98-3.09 (2H, m), 3.72-3.78 (2H, m), 7.32 (2H, d, 9 Hz), 7.38 (2H, d, 9 Hz).

reactant | methylamine | CN | CH5N
reactant | 4-(4-chlorophenyl)-4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 0.62 mmol, 206 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=O)C1=CC=C(C=C1)Cl | C17H22ClNO3
reactant | sodium borohydride | 1.29 mmol, 49 mg | [BH4-].[Na+]
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | 4-(4-chloro-phenyl)-4-methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.42 mmol, 142 mg, 68% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC)C1=CC=C(C=C1)Cl | C18H27ClN2O2
